US08877772B2
Preparation of 3-(1H-indol-5-yl)-5-(3,4,5-trimethoxyphenyl)-1H-pyrrolo[2,3-b]pyridine (Compound C)
To a solution of 5-bromo-3-(1H-indol-5-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (65 mg, 0.14 mmol) in CH3CN (1 mL) in a Personal Chemistry microwave reaction vial was added 3,4,5-trimethoxyphenylboronic acid (30 mg, 0.14 mmol), bis(triphenylphosphine)-palladium(II)dichloride (7.0 mg, 0.010 mmol), and 1 M Na2CO3 (1 mL). The resulting mixture was de-gassed with Ar for 10 min, after which it was heated at 150° C. for 10 min in a Personal Chemistry Optimizer. The organic layer was separated, filtered, and concentrated in vacuo. The residue was dissolved in MeOH (3 mL) and acetone (2 mL), and 2 M NaOH (1.5 mL) was added. The resulting mixture was stirred at 65° C. for 30 min, after which it was partitioned between EtOAc and 1 M NaOH. The organic layer was separated, dried over MgSO4, filtered, and stripped to give a residue purified via preparatory HPLC to give the title compound as a white solid. 1H NMR (DMSO-d6, 300 MHz): δ 11.78 (s, 1H), 11.03 (s, 1H), 8.51 (d, J=2.1 Hz, 1H), 8.36 (d, J=1.8 Hz, 1H), 7.86 (s, 1H), 7.72 (d, J=2.4 Hz, 1H), 7.45 (s, 2H), 7.32 (m, 1H), 6.92 (s, 2H), 6.45 (m, 1H), 3.85 (s, 6H), 3.70 (s, 3H); HPLC retention time: 2.04 minutes; MS ESI (m/z): 400.4 (M+1)+, calc. 399.

reactant | 5-bromo-3-(1H-indol-5-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.14 mmol, 65 mg | BrC=1C=C2C(=NC1)N(C=C2C=2C=C1C=CNC1=CC2)S(=O)(=O)C2=CC=C(C)C=C2 | C22H16BrN3O2S
reactant | 3,4,5-trimethoxyphenylboronic acid | 0.14 mmol, 30 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | Na2CO3 | 1 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 1 mL | CC#N | C2H3N
catalyst | bis(triphenylphosphine)-palladium(II)dichloride | 0.010 mmol, 7.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-(1H-indol-5-yl)-5-(3,4,5-trimethoxyphenyl)-1H-pyrrolo[2,3-b]pyridine | N1C=CC2=CC(=CC=C12)C1=CNC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC | C24H21N3O3
